US04814332
1.3 g of 1-amino-2-methylimidazole hydrochloride and 2.2 g of p-(dimethylamino)benzaldehyde are stirred at room temperature for 16 hours in 100 ml of glacial acetic acid. The mixture is evaporated, whereupon the residue is treated four times with ethanol and again evaporated each time. The crystalline residue is washed with ether and then treated with saturated sodium hydrogen carbonate solution. The mixture is extracted with methylene chloride, the extract is dried over sodium sulfate and evaporated, and the material obtained is recrystallized from methylene chloride/petroleum ether. There is obtained 1-[[p-(dimethylamino)benzylidene]amino]-2-methylimidazole of melting point 166°-167°.

reactant | 1-amino-2-methylimidazole hydrochloride | 1.3 g | Cl.NN1C(=NC=C1)C
reactant | p-(dimethylamino)benzaldehyde | 2.2 g | CN(C1=CC=C(C=O)C=C1)C | C9H11NO
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | 1-[[p-(dimethylamino)benzylidene]amino]-2-methylimidazole | CN(C1=CC=C(C=NN2C(=NC=C2)C)C=C1)C | C13H16N4
